US04602014
The mixture of 0.3 g of 4-(O-methylhydroxylamino)-3-(N-p-chlorophenylcarbamoyl)-5,6,7,8-tetrahydroquinoline and 15 mL of eutectic diphenyl ether-biphenyl is heated to 240° for 2 hours under nitrogen. It is cooled to room temperature, concentrated under high vacuum, and the residue is diluted with 100 mL of petroleum ether, and filtered. The collected solid is stirred with 15 mL of diethyl ether and 3 mL of 2N aqueous sodium hydroxide for 1 hour, filtered to remove insoluble material and the layers of filtrate are separated. The aqueous phase is treated with 0.3 g of ammonium chloride to give a yellow precipitate, which is collected and recrystallized from isopropanol containing hydrogen chloride to yield the 2-p-chlorophenyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one hydrochloride.

reactant | 4-(O-methylhydroxylamino)-3-(N-p-chlorophenylcarbamoyl)-5,6,7,8-tetrahydroquinoline | 0.3 g | CONC1=C(C=NC=2CCCCC12)C(NC1=CC=C(C=C1)Cl)=O | C17H18ClN3O2
reactant | diphenyl ether biphenyl | 15 mL | C1(=CC=CC=C1)OC1=CC=CC=C1.C1(=CC=CC=C1)C1=CC=CC=C1
product | 2-p-chlorophenyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one hydrochloride | Cl.ClC1=CC=C(C=C1)N1N=C2C(=CNC=3CCCCC23)C1=O | InChI=1S/C16H14ClN3O.ClH/c17-10-5-7-11(8-6-10)20-16(21)13-9-18-14-4-2-1-3-12(14)15(13)19-20;/h5-9,18H,1-4H2;1H
